US09035073B2
1-benzyl-3-(3,5-difluorophenyl)-3-methoxypyrrolidine
To a solution of 3-(3,5-difluorophenyl)-3-methoxypyrrolidine (1.3 g, 6.1 mmol) in dry dimethyl formamide (5 mL), was added sodium hydride (60% dispersion in mineral oil, 0.27 g, 6.7 mmol). The mixture was stirred for 15 min after which a solution of benzylbromide (0.725 mL, 6.1 mmol) in dry dimethyl formamide (5 mL) was added dropwise. The mixture was stirred for 30 min, hydrochloric acid (10%, 50 ml) was added and the aqueous phase was extracted with diethylether (50 mL), the aqueous phase was made basic with Na2CO3 and extracted with ethyl acetate (3×50 mL). The combined organic phase was washed with aqueous LiCl (5%, 50 mL), dried (Na2SO4), filtered and evaporated. Purification by flash column chromatography on silica gel (ethyl acetate) gave the title compound (1.15 g, 62%). MS m/z (rel. intensity, 70 eV) 273 (10), 133 (42), 132 (23), 91 (bp), 65 (11).

reactant | 3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 6.1 mmol, 1.3 g | FC=1C=C(C=C(C1)F)C1(CNCC1)OC | C11H13F2NO
reactant | sodium hydride | 6.7 mmol, 0.27 g | [H-].[Na+]
reactant | benzylbromide | 6.1 mmol, 0.725 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 50 ml | Cl | ClH
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-3-(3,5-difluorophenyl)-3-methoxypyrrolidine | 1.15 g, 62% | C(C1=CC=CC=C1)N1CC(CC1)(OC)C1=CC(=CC(=C1)F)F | C18H19F2NO
